US06166064
Benzene-1,3-disulfonic acid tert-butyl-amide dimethylamide
Dimethylamine gas was allowed to bubble for 3 minutes into a solution of 1.8 grams (7 mmole) of 3-tert-butylsulfamoyl-benzenesulfonyl chloride in ethyl acetate. Water was added and the mixture was stirred at room temperature for 1 hour. The ethyl acetate layer was separated, dried over magnesium sulfate and concentrated in vacuo to a solid which was triturated with hexane/isopropryl ether to give 1.59 grams of the titled compound, m.p. 100-102° C.

reactant | Dimethylamine | CNC | C2H7N
reactant | 3-tert-butylsulfamoyl-benzenesulfonyl chloride | 7 mmole, 1.8 grams | C(C)(C)(C)NS(=O)(=O)C=1C=C(C=CC1)S(=O)(=O)Cl | C10H14ClNO4S2
reactant | Water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Benzene-1,3-disulfonic acid tert-butyl-amide dimethylamide | 1.59 grams | CN(S(=O)(=O)C=1C=C(C=CC1)S(=O)(=O)NC(C)(C)C)C | C12H20N2O4S2
